US07884246B2
3-Hydroxy-2-methyl-cyclohex-2-enone (500 g, 3.96 mol) is added to a mechanically stirred reactor. To this is added methanol (1.35 L) followed by trimethyl orthoformate (1.65 L, 15.85 mol, 4 eq) and sulfuric acid (15 mL). The resulting mixture is stirred for 2 h until completion and hydroxylamine sulfate (275 g, 3.96 mol, 1 eq) is added as a solid. The mixture is heated to 40° C. and stirred at that temperature until complete conversion (2-2.5 h). The solution is then cooled to 5° C. and the pH is adjusted to 7 with saturated sodium bicarbonate (˜3 L). The precipitate formed is collected by filtration (filter 10 cm diameter, 1.5 cm cake thickness, <3 min total filtration time), rinsed with heptane (400 mL) and dried under nitrogen flow for 4-6 h to provide 560 g (92% yield) of 3-methoxy-2-methyl-cyclohex-2-enone oxime.

reactant | 3-Hydroxy-2-methyl-cyclohex-2-enone | 3.96 mol, 500 g | OC1=C(C(CCC1)=O)C | C7H10O2
reactant | trimethyl orthoformate | 15.85 mol, 1.65 L, 4 eq | C(OC)(OC)OC | C4H10O3
reactant | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
reactant | hydroxylamine sulfate | 3.96 mol, 275 g, 1 eq | S(=O)(=O)(O)O.NO
reactant | sodium bicarbonate | ˜3 L | C([O-])(O)=O.[Na+]
solvent | methanol | 1.35 L | CO | CH4O
product | 3-methoxy-2-methyl-cyclohex-2-enone oxime | 560 g, 92% yield | COC1=C(C(CCC1)=NO)C | C8H13NO2
